US07220771B2
B. 2-(5-(1H-1,2,4-Triazol-3-yl)-3-bromo-1H-indazolyl)perhydro-2H-pyran
The title compound was prepared by reacting 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (15.13 g, 46.67 mmol) with N,N-dimethylformamide dimethlyl acetal (134 mL) and heating to 80° C. for 3 hours. The reaction was allowed to cool to room temperature, and condensed to a brown oil that was exposed to atmospheric conditions minimally. To the crude oil was added glacial acetic acid (220 mL) and hydrazine (23 mL), and then the mixture was heated to 115° C. for 1.5 hours. The reaction was allowed to cool to room temperature, and subsequently added to water (500 mL) resulting in the formation of a white precipitate which was filtered and dried in a vacuum oven (15.05 g, 93% yield): ES-MS (m/z) 350 [M+1]+.

reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 46.67 mmol, 15.13 g | BrC1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C13H14BrN3O2
reactant | acetic acid | 220 mL | C(C)(=O)O | C2H4O2
reactant | hydrazine | 23 mL | NN | H4N2
solvent | water | 500 mL | O | H2O
product | 2-(5-(1H-1,2,4-Triazol-3-yl)-3-bromo-1H-indazolyl)perhydro-2H-pyran | 93% yield | N1N=C(N=C1)C=1C=C2C(=NN(C2=CC1)C1OCCCC1)Br | C14H14BrN5O
